US04678781
The starting material may be prepared by reaction of 2-bromothiazole and trimethyloxonium tetrafluoroborate in CH2Cl2 for 18 hours at ambient temperature to give 2-bromo-3-methylthiazolium tetrafluoroborate.

reactant | 2-bromothiazole | BrC=1SC=CN1 | C3H2BrNS
reactant | trimethyloxonium tetrafluoroborate | F[B-](F)(F)F.C[O+](C)C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-bromo-3-methylthiazolium tetrafluoroborate | F[B-](F)(F)F.BrC=1SC=C[N+]1C | InChI=1S/C4H5BrNS.BF4/c1-6-2-3-7-4(6)5;2-1(3,4)5/h2-3H,1H3;/q+1;-1
